US08012956B2
Methyl 3-bromo-4-cyanobenzoate (prepared as described in Wang, G. T. et al. Bioorg. Med. Chem. Lett. 2005, 15(1), 153(1) (130 mg, 0.54 mmol) was dissolved in DMSO (1.5 mL) and was cooled in a cold water bath. 30% aqueous hydrogen peroxide (0.1 mL) and potassium carbonate (23.9.0 mg, 0.17 mmol) were added and the mixture was stirred at room temperature for 18.5 h. The reaction mixture was partitioned between ethyl acetate and 10% aqueous lithium chloride. The aqueous portion was extracted with ethyl acetate. The combined organic portions were dried over sodium sulfate, filtered and concentrated to afford methyl 3-bromo-4-(aminocarbonyl)benzoate (quantitative yield) as a yellow oil. GCMS for C9H8BrNO3: 257, 259 (M+).

reactant | Methyl 3-bromo-4-cyanobenzoate | BrC=1C=C(C(=O)OC)C=CC1C#N | C9H6BrNO2
reactant | hydrogen peroxide | 0.1 mL | OO | H2O2
reactant | potassium carbonate | 0.17 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | methyl 3-bromo-4-(aminocarbonyl)benzoate | quantitative yield | BrC=1C=C(C(=O)OC)C=CC1C(=O)N | C9H8BrNO3
